.SUBCKT 1n5386b 2 1
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 23, 12
* MODEL FORMAT: SPICE3
*     anode cathode
*node: 2      1
*    Forward Section
D1 2 1 MD1 TEMP=25
.MODEL MD1 D IS=6.57933e-10 N=1.84949 XTI=1 RS=2.2
+ CJO=1e-11 TT=2e-09
*    Leakage Current
R 1 2 1.37e+11 MDR	
.MODEL MDR R TC1=-0.0679198 TC2=0.00155388
*    Breakdown
RZ 2 3 4.36
IZG 4 3 0.03168
R4 4 3 21500
D3 3 4 MD3 TEMP=25
.MODEL MD3 D IS=2.5e-12 N=38.2884 XTI=0 EG=0.1
D2 5 4 MD2 TEMP=25
.MODEL MD2 D IS=2.5e-12 N=64.1131 XTI=0 EG=0.1
EV1 1 5 6 0 1
IBV 0 6 0.001
RBV 6 0 11793 MDRBV
.MODEL MDRBV R TC1=0.00107745
*-- SPICE3 DIODE MODEL DEFAULT PARAMETER
*  VALUES ARE ASSUMED
*IS=1E-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.ENDS 1n5386b