**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*   SPICE3
*                    anode     cathode
* Reverse direction: node 9 <- node 2
.SUBCKT t15ke18 9 2
DF 9 90 DFMOD
.MODEL DFMOD D N = 1.92694 IS = 9.9998E-008 RS = 0.00787646
+ EG = 1.11 XTI = 3
+ CJO = 3.34E-009 VJ = 0.822515 M = 0.35 FC = 0.5
+ TT = 1E-008 TNOM = 25
* Leakage
RL 9 90 1.62644E+007 RLMOD
.MODEL RLMOD R TC1 = 0 TC2 = 0 TNOM = 25
* Breakdown
RBD 90 4 0.147607
EBD 4 3 10 20 1
DBD 3 9 DBDMOD TEMP = 25
.MODEL DBDMOD D IS = 1E-015 N = 0.5 TNOM = 25
IBVC 0 10 0.001
RBVC 10 0 18000 RBVCMOD
.MODEL RBVCMOD R TC1 = 0.00088 TNOM = 25
RBDX 20 23 0.147607
DBVC 23 0 DBDMOD TEMP = 25
IBVD 0 20 0.001
L1 90 2 1E-015
.ENDS

